US07026340B2
By using (3,3,3-trifluoropropyl)malononitrile (226 mg), N,N-dimethylformamide (5 ml), potassium carbonate (193 mg) and 2-(bromomethyl)-6-chloropyridine (335 mg) according to the similar method described in Production Example 4 was obtained 365 mg of 2-((6-chloro-2-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (the present invention compound (8)).

reactant | (3,3,3-trifluoropropyl)malononitrile | 226 mg | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)-6-chloropyridine | 335 mg | BrCC1=NC(=CC=C1)Cl | C6H5BrClN
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-((6-chloro-2-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 365 mg | ClC1=CC=CC(=N1)CC(C#N)(C#N)CCC(F)(F)F | C12H9ClF3N3
